plaintext
* NMOS Inverter

VDD VDD 0 DC 5V
RD VDD Vout 1k

M1 Vout Vin 0 0 NMOS

* Input Voltage Source
Vin Vin 0 DC 0V AC 1V

.model NMOS NMOS (Level=1)

.end